US06083985
(3) Preparation of (2RS,3RS)-3-tert-butoxycarbonyl-5-oxotetrahydrofuran-2-carboxylic acid
148 mg of 3-tert-butyl 2-diphenylmethyl (2RS,3RS)-5-oxotetrahydrofuran-2,3-dicarboxylate in 4 ml of ethyl acetate was catalytically reduced with 15 mg of a 10% palladium-carbon catalyst at room temperature at atmospheric pressure of hydrogen for 15 hours. The catalyst was filtered off, and the solvent was evaporated in vacuo. The residue was washed with benzene to give 66 mg of the title compound as a white crystalline powder.

reactant | 3-tert-butyl 2-diphenylmethyl (2RS,3RS)-5-oxotetrahydrofuran-2,3-dicarboxylate | 148 mg | O=C1CC(C(O1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C23H24O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
product | (2RS,3RS)-3-tert-butoxycarbonyl-5-oxotetrahydrofuran-2-carboxylic acid | 66 mg | C(C)(C)(C)OC(=O)C1C(OC(C1)=O)C(=O)O | C10H14O6
